US04757081
Synthesis of 2-(3-ethoxyphenyl)-3-methyl-1,6-diphenyl-4(1H)-pyridinone
In 500 ml of xylene were dissolved 15.0 g (0.046 mole) of 1-(3-ethoxyphenyl)-2-methyl-5-phenyl-1,3,5-pentanetrione, 43.0 g (0.47 mole) of aniline and 8.8 g (0.092 mole) of methanesulfonic acid. The reaction mixture was heated under reflux for 30 minutes in a reactor fitted with a Dean-Stark apparatus. After cooling, the reaction mixture was filtered to remove solid matter, followed by removal of the solvent by distillation. The residue was extracted with chloroform and the resultant solution in chloroform (the extract) was washed first with 100 ml of 10% hydrochloric acid and then with 100 ml of a 10% aqueous solution of sodium hydroxide. The chloroform solution was washed further with water and was then dried over anhydrous sodium sulfate. Subsequent to removal of the sodium sulfate, the solvent was distilled off and the residue was subjected to chromatography on a silica gel column (eluent: ethyl acetate). Upon recrystallization of the resultant crystals from acetone, 5.3 g of 2-(3-ethoxyphenyl)-3-methyl-1,6-diphenyl-4-(1H)-pyridinone having a melting point of 146°-149° C. was obtained.

reactant | 1-(3-ethoxyphenyl)-2-methyl-5-phenyl-1,3,5-pentanetrione | 0.046 mole, 15.0 g | C(C)OC=1C=C(C=CC1)C(C(C(CC(=O)C1=CC=CC=C1)=O)C)=O | C20H20O4
reactant | aniline | 0.47 mole, 43.0 g | NC1=CC=CC=C1 | C6H7N
reactant | methanesulfonic acid | 0.092 mole, 8.8 g | CS(=O)(=O)O | CH4O3S
solvent | xylene | 500 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(3-ethoxyphenyl)-3-methyl-1,6-diphenyl-4(1H)-pyridinone | C(C)OC=1C=C(C=CC1)C=1N(C(=CC(C1C)=O)C1=CC=CC=C1)C1=CC=CC=C1 | C26H23NO2
